Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
ostial LAD lesion
 
Major Surgical or Invasive Procedure:
cardiac catheterization ___
 
History of Present Illness:
___ year old woman admitted on ___ for a ventral hernia repair- 
surgery uneventful. On POD #3, she developed bilious emesis, 
with concerns for a small bowel obstruction so she went back to 
the OR on ___ for exploratory laparoscopy with lysis of 
adhesions. Patient was successfully extubated but then went into 
pulmonary edema and was reintubated.  Echo revealed an LVEF of 
30% with an anteroapical WMA. BNP 10,000. Treated with lasix and 
then SBP dropped to 70's. Given 1.5 liters of LR and then 
150cc/hour overnight. Troponin at that time was 7.0. Patient 
remained hypotensive on ___, so started on Levophed at 
5mcg/kg/min and taken for cardiac cath (troponin on ___ was 
4.36).  At OSH, cath showed a tight ostial LAD lesion.  Given 
this, the patient was transferred to ___ for further treatment 
given the complexity of her lesion.

Patient was taken to the cath lab at which time her ostial LAD 
lesion was visualized and a bare metal stent was placed with 
good effect. Her PCWP at that time was noted to be 24. Notably 
her hgb dropped from 8.5 to 7.6 after her procedure.  She 
remained intubated on arrival.  She had a femoral venous and 
arterial sheath in place. Notably the patient has a possible 
history of HIT.
 
On arrival to the floor, patient is intubated, sedated, however 
is able to nod yes/no and denies chest pain.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: Diabetes, Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
-CABG: no prior history 
-PERCUTANEOUS CORONARY INTERVENTIONS: no prior 
3. OTHER PAST MEDICAL HISTORY:  
-COPD
-hypothyroidism
-Psychiatric disorder of unclear etiology, likely bipolar 
disorder vs schizophrenia complicated by tardive dyskinesia
-hx of PE
-HIT
 
Social History:
___
Family History:
Unable to obtain as patient intubated.  
 
Physical Exam:
Admission physical exam:
VS: 99.8 118/48 65  20 98 on vent
General:  obese female, intubated, sedated, arousable to voice
HEENT:  Unable to appreciate JVD, notable lip smacking
CV: RRR, no mrg appreciated
Lungs: course ventilator sounds, unable to appreciate focal 
rhonchi or rhales
Abdomen: soft, nt, nd, laparoscopy scars present 
Ext: 1+ ___ edema to knees bilaterally, no skin mottling
Skin: dry, without rashes
Pulses: radial and dp pulses intact bilaterally

Discharge physical exam:
PHYSICAL EXAMINATION:  
VS: 99.8 118/48 65  20 98 on vent
General:  obese female, intubated, sedated, arousable to voice
HEENT:  Unable to appreciate JVD, notable lip smacking
CV: RRR, no mrg appreciated
Lungs: course ventilator sounds, unable to appreciate focal 
rhonchi or rhales
Abdomen: soft, nt, nd, laparoscopy scars present 
Ext: 1+ ___ edema to knees bilaterally, no skin mottling
Skin: dry, without rashes
Pulses: radial and dp pulses intact bilaterally

 
Pertinent Results:
Admission labs:

___ 11:47PM   TYPE-ART PO2-123* PCO2-38 PH-7.49* TOTAL 
CO2-30 BASE XS-6
___ 09:18PM   GLUCOSE-99 UREA N-14 CREAT-0.6 SODIUM-142 
POTASSIUM-3.0* CHLORIDE-103 TOTAL CO2-29 ANION GAP-13
___ 09:18PM   estGFR-Using this
___ 09:18PM   WBC-6.9 RBC-2.56* HGB-7.6* HCT-22.8* MCV-89 
MCH-29.6 MCHC-33.2 RDW-13.6
___ 09:18PM   NEUTS-75.5* LYMPHS-16.8* MONOS-3.9 EOS-3.4 
BASOS-0.4
___ 09:18PM   PLT COUNT-329
___ 08:35PM   TYPE-ART PO2-231* PCO2-35 PH-7.53* TOTAL 
CO2-30 BASE XS-7 INTUBATED-INTUBATED
___ 08:35PM   GLUCOSE-101
___ 08:35PM   HGB-8.5* calcHCT-26 O2 SAT-99
___ 08:35PM   freeCa-1.02*

Studies
Cardiac cath ___: report pending

Chest x-ray ___: No previous images.  Endotracheal tube tip 
lies approximately 3.5 cm above the carina.  Nasogastric tube 
extends to the upper stomach where it crosses the lower margin 
of the image. 
  
Cardiac silhouette is enlarged and there is evidence of 
elevation of pulmonary venous pressure.  No definite acute focal 
pneumonia. 
  
Of incidental note is elevation of the right hemidiaphragm. 

TTE ___: The left atrium is normal in size. Left ventricular 
wall thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is moderately 
depressed (LVEF= 35 %) secondary to extensive apical akinesism 
and hypokinesis of the anterior septum and anterior free wall. 
Tissue Doppler imaging suggests an increased left ventricular 
filling pressure (PCWP>18mmHg). The right ventricular free wall 
thickness is normal. Right ventricular chamber size is normal. 
with focal hypokinesis of the apical free wall. The aortic valve 
is not well seen. The study is inadequate to exclude significant 
aortic valve stenosis. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. There is an anterior space which most likely 
represents a prominent fat pad.  

Discharge labs:

___ 07:30AM BLOOD WBC-9.9 RBC-2.60* Hgb-7.7* Hct-22.6* 
MCV-87 MCH-29.6 MCHC-34.0 RDW-13.9 Plt ___
___ 07:30AM BLOOD Glucose-103* UreaN-14 Creat-0.7 Na-138 
K-3.5 Cl-102 HCO3-28 AnGap-___ F with h/o HTN and HLD developed new onset heart failure 
after ex-lap for SBO, found to have ostial LAD lesion, now s/p 
cardiac cath with BMS placement.

ACTIVE DIAGNOSES

# OSTIAL LAD LESION: Pt underwent cardiac cath ___ and was 
found to have ostial LAD lesion.  Successfully stented with drug 
eluting stent to proximal LAD.  Patient had no other significant 
lesions present on cardiac cath.  Troponins downtrended.  Groin 
site was normal after the procedure.

Post-cath, pt received ASA 325mg daily which should be continued 
for one month and 81 mg daily thereafter.  Also treated with 
clopidogrel 75mg daily and atorvastatin 80mg daily. The 
clopidogrel and aspirin need to be given every day without fail 
to prevent instent restenosis. Do not stop aspirin and 
clopidogrel for any reason unless it is discussed with 
outpatient cardiologist. Post-procedure initially held off on 
beta blockade and ACEI, but started metoprolol and lisinopril 
when extubated and blood pressure was able to tolerate. 

# Acute congestive heart failure with systolic dysfunction: LVEF 
30% from OSH echo.  Unclear whether this is just in setting of 
acute MI while at OSH or whether this was baseline.  Repeat echo 
___ showed LVEF 35% due to extensive apical akinesism and 
hypokinesis of the anterior septum and anterior free wall.  TTE 
also showed increased LV filling pressure.

Pt was placed on 2g sodium diet and strict I/O.  Diuresis was 
undertaken with furosemide drip, after which she was 
transitioned to torsemide 20mg PO daily, which was later 
increased to 40mg daily.  Electrolytes were monitored and 
repleted as necessary.
  
# VENTRAL HERNIA WITH INCARCERATION: s/p lap ventral hernia 
repair with transection of bowel segment.  Was able to pass gas 
and had a bowel movement ___.  Had three episodes of diarrhea 
on/around ___, no C. diff sent but low suspicion for C. diff 
given normal WBC count.  Lap incision sites were monitored and 
continued to look normal. Unclear which surgeon performed the 
procedure at ___ (no info in our records) but pt needs to f/u as 
an outpatient after discharge. 

# Anemia: admitted after surgery with hct 22, stable since with 
no evidence of bleeding. Fe studies showed nl retics and 
Ferritin of 327, indicating likely chronic issue (baseline Hct 
unknown) with likely blood loss during surgery and cardiac cath. 
Hct should be rechecked in 1 week and colonoscopy should be 
considered if hct still low. 

CHRONIC DIAGNOSES

# HTN: home HCTZ was held.  Upon restarting anti-hypertensives, 
changed regimen to metoprolol and lisinopril as described above 
due to CAD.
 
# HLD: DCed simvastatin and started atorvastatin 80mg daily 
given acute MI.

# HYPOTHYROIDISM: Continued levothyroxine.

#COPD: Continued tiotropium and albuterol.  Symbicort non 
formulary here but substituted with fluticasone-salmeterol 
in-house and resumed Symbicort at discharge. Pt has outpatient 
pulmonary appts here at ___ for PFT's and f/u care. 

#BIPOLAR DISORDER: Continued sertraline.  It was unclear whether 
pt was previously taking Abilify and at what dose, so it was not 
administered in the hospital setting.

TRANSITIONAL ISSUES
#s/p DES to LAD: Continue full-dose ASA 325mg x 1 month, then 81 
mg daily with 75 mg clopidogrel for one full year.
#Recheck TTE one month after discharge
# Anemia workup if continues to have low hct after d/c (consider 
colonoscopy).  
#Unclear which surgeon performed abdominal surgery at ___ (no 
info in our records) but pt needs to f/u as an outpatient after 
discharge. 
#Reconcile psychiatric medication regimen.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tiotropium Bromide 1 CAP IH DAILY 
2. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation bid 
3. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze 
4. Simvastatin 40 mg PO DAILY 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Sertraline 50 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Potassium Chloride 20 mEq PO BID 
9. Furosemide 40 mg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Sertraline 50 mg PO DAILY 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Aspirin EC 325 mg PO DAILY 
5. Atorvastatin 80 mg PO DAILY 
6. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheeze 
7. Symbicort *NF* (budesonide-formoterol) 160-4.5 mcg/actuation 
Inhalation bid 
8. Clopidogrel 75 mg PO DAILY 
9. Lisinopril 2.5 mg PO DAILY 
10. Metoprolol Succinate XL 25 mg PO DAILY 
11. Torsemide 40 mg PO DAILY 
12. Potassium Chloride 20 mEq PO BID 
Hold for K > 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Non ST elevation myocardial infarction
Hypertension

Secondary: Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure participating in your care at ___. You were 
admitted to the hospital for a heart attack and a drug eluting 
stent was placed in the vessels around your heart to open a 
blockage. 
It is extremely important that you take aspirin and clopidogrel 
(plavix) every day without fail for at least one year. Do not 
stop taking aspirin or clopidogrel or miss any doses unless Dr. 
___ that it is OK to do so. 

Please make note of the changes to your home medications on the 
enclosed list and follow up with your doctors as ___.

 
Followup Instructions:
___